US08492414B2
2,6-Difluoro-3-[3-(4-methoxyphenyl)-[1,2,4]thiadiazol-5-ylmethoxy]-benzamide: (VI-b)
To a solution of 5-bromomethyl-3-(4-methoxyphenyl)-[1,2,4]thiadiazole (0.048 g, 0.15 mmol) in DMF (2 ml) was added 2,6-difluoro-3-hydroxybenzamide (0.027 g, 0.15 mmol) and potassium carbonate (0.76 g, 0.55 mmol). The reaction mixture was stirred at 25° C. for 12 h under nitrogen atmosphere. After the completion of the reaction (TLC monitoring), the reaction mixture was evaporated to dryness under vacuum, added 30 ml water and extracted with ethyl acetate (3×20 ml). The combined organic layer was dried over Na2SO4, filtered and concentrated under vacuum. The crude residue was purified over silica gel (100-200 M, 50% EtOAc-Hexane) to get the desired product (0.011 g, 30%).

reactant | 5-bromomethyl-3-(4-methoxyphenyl)-[1,2,4]thiadiazole | 0.15 mmol, 0.048 g | BrCC1=NC(=NS1)C1=CC=C(C=C1)OC | C10H9BrN2OS
reactant | 2,6-difluoro-3-hydroxybenzamide | 0.15 mmol, 0.027 g | FC1=C(C(=O)N)C(=CC=C1O)F | C7H5F2NO2
reactant | potassium carbonate | 0.55 mmol, 0.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2,6-Difluoro-3-[3-(4-methoxyphenyl)-[1,2,4]thiadiazol-5-ylmethoxy]-benzamide | 0.011 g, 30% | FC1=C(C(=O)N)C(=CC=C1OCC1=NC(=NS1)C1=CC=C(C=C1)OC)F | C17H13F2N3O3S
